US07304081B2
2-{[1-(4-Chlorophenyl)cyclopropyl]carbonyl}-1,2,3,3a,4,9b-hexahydrochromeno[3,4-c]pyrrole
A mixture of 2-[1-{[1-(4-chlorophenyl)cyclopropyl]carbonyl}-4-(hydroxymethyl)pyrrolidin-3-yl]phenol (13.0 mg, 0.0000350 mol), triphenylphosphine (20.0 mg, 0.0000762 mol) and diisopropyl azodicarboxylate (15.0 μL, 0.0000762 mol) in tetrahydrofuran (1.0 mL, 0.012 mol) was stirred at rt for 4 h. The mixture was diluted with methanol (0.80 mL) and the desired product from the mixture was isolated and purified by prep-HPLC. LCMS: m/z 354.5 (M+H)+

reactant | 2-[1-{[1-(4-chlorophenyl)cyclopropyl]carbonyl}-4-(hydroxymethyl)pyrrolidin-3-yl]phenol | 0.0000350 mol, 13.0 mg | ClC1=CC=C(C=C1)C1(CC1)C(=O)N1CC(C(C1)CO)C1=C(C=CC=C1)O | C21H22ClNO3
reactant | triphenylphosphine | 0.0000762 mol, 20.0 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 0.0000762 mol, 15.0 μL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
reactant | tetrahydrofuran | 0.012 mol, 1.0 mL | O1CCCC1 | C4H8O
solvent | methanol | 0.80 mL | CO | CH4O
product | 2-{[1-(4-Chlorophenyl)cyclopropyl]carbonyl}-1,2,3,3a,4,9b-hexahydrochromeno[3,4-c]pyrrole | ClC1=CC=C(C=C1)C1(CC1)C(=O)N1CC2C(C1)C=1C=CC=CC1OC2 | C21H20ClNO2
